US05538986
Dissolved oxalyl chloride (3.62 g, 2.5 mL, 0.0285 mol) in 30 mL of dry dichloromethane, and cooled to -78° C. under a nitrogen atmosphere. Added dimethylsulfoxide (4.45 g, 4.0 mL, 0.0570 mol) in 10 mL of dry dichloromethane dropwise via addition funnel. Carbon monoxide and carbon dioxide evolution observed. Stirred at -78° C. for 15 mins. Added 2-[6,11-dihydro-11-ethoxydibenz[b,e]oxepin-11-yl]-ethanol (6.75 g, 0.0237 mol) dissolved in 30 mL of dry dichloromethane dropwise via addition funnel. Stirred at -78° C. for 15 mins. then added triethylamine (7.21 g, 9.9 mL, 0.0712 mol). Warmed slowly to room temperature. Added 150 mL of water, and separated layers. Extracted aqueous solution with dichloromethane. Washed combined organic extracts with 0.5N HCl and then saturated NaCl, dried with MgSO4, filtered, and evaporated. Purified crude product by flash chromatography on silica gel eluting with 5% ethyl acetatehexane then 10% ethyl acetate-hexane. Combined appropriate fractions, and evaporated to give 3.47 g (52% yield) of 2-[6,11-dihydro-11-ethoxydibenz[b,e]oxepin-11-yl]-ethanal as a colorless oil.

reactant | oxalyl chloride | 0.0285 mol, 2.5 mL, 3.62 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.0570 mol, 4.0 mL, 4.45 g | CS(=O)C | C2H6OS
reactant | Carbon monoxide | [C]=O | CO
reactant | carbon dioxide | C(=O)=O | CO2
reactant | 2-[6,11-dihydro-11-ethoxydibenz[b,e]oxepin-11-yl]-ethanol | 0.0237 mol, 6.75 g | C(C)OC1(C2=C(OCC3=C1C=CC=C3)C=CC=C2)CCO | C18H20O3
reactant | triethylamine | 0.0712 mol, 9.9 mL, 7.21 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | 150 mL | O | H2O
product | 2-[6,11-dihydro-11-ethoxydibenz[b,e]oxepin-11-yl]-ethanal | 3.47 g, 52% yield | C(C)OC1(C2=C(OCC3=C1C=CC=C3)C=CC=C2)CC=O | C18H18O3
